US09399623B2
6-Chloro-2-(3-hydroxymethylpyrrolidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide (35)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide, DIPEA and pyrrolidin-3-ylmethanol. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.72 (1H), 7.75 (m, 1H), 7.55 (2H), 7.05 (1H), 4.73 (1H), 3.65 (m, 2H), 3.50 (m, 3H), 3.26 (m, 2H), 2.44 (m, 2H), 2.06 (m, 2H), 1.85 (m, 2H), 1.74-1.76 (m, 5H), 1.27-1.32 (m, 2H). m/z: 438 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide | FC1(CC(CCC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidin-3-ylmethanol | N1CC(CC1)CO | C5H11NO
product | 6-Chloro-2-(3-hydroxymethylpyrrolidin-1-yl)-quinoline-5-carboxylic acid (3,3-difluoro-cyclohexylmethyl)-amide | FC1(CC(CCC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)CO)F | C22H26ClF2N3O2
